US05110977
N,N-Bis(2-cyclohexanoyloxyethyl)methylamine
A solution of 73.31 g (0.05 mol) cyclohexanecarbonyl chloride in 200 ml of methylene chloride was added to a solution of 29.79 g (0.25 mol) of N-methyldiethanolamine, 20.0 g (0.50 mol) of sodium hydroxide and 200 ml of water over approximately 1 minute. The reaction was exothermic requiring the use of a reflux condenser. The reaction mixture was stirred for another 45 minutes after which the organic layer was separated, washed with water, dried over MgSO4 and concentrated. The residue was distilled to give product, bp=192°-9° C./0.30 mm.

reactant | cyclohexanecarbonyl chloride | 0.05 mol, 73.31 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | N-methyldiethanolamine | 0.25 mol, 29.79 g | CN(CCO)CCO | C5H13NO2
reactant | sodium hydroxide | 0.50 mol, 20.0 g | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | N,N-Bis(2-cyclohexanoyloxyethyl)methylamine | C1(CCCCC1)C(=O)OCCN(CCOC(=O)C1CCCCC1)C | C19H33NO4
